US07385059B2
4-Cyclohexylamino-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide
To a solution of 4-amino-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide (200 mg; 1 mmol) and cyclohexanone (107 mg; 1.1 mmol) in dichloromethane (10 ml) were added 3 Å molecular sieves (1 g) and sodium triacetoxyborohydride (315 mg; 1.5 mmol), and the mixture was then stirred at room temperature over the weekend. The reaction mixture was filtered through Celite®, diluted with ethyl acetate, washed with brine, dried (MgSO4) and evaporated to give the 48 mg of the product as a grey gum. (LC/MS: Rt 2.95, [M+H]+285).

reactant | 4-amino-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide | 1 mmol, 200 mg | FC1=CC=C(C=C1)NC(=O)C1=NNC=C1N | C10H9FN4O
reactant | cyclohexanone | 1.1 mmol, 107 mg | C1(CCCCC1)=O | C6H10O
reactant | sodium triacetoxyborohydride | 1.5 mmol, 315 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-Cyclohexylamino-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide | 48 mg | FC1=CC=C(C=C1)NC(=O)C1=NNC=C1NC1CCCCC1 | C16H19FN4O
